US04094870
To a solution of 11.4 g of 1,3-dihydro-5-phenyl-7-nitro-2H-1,4-benzodiazepin-2-thione in 140 ml of anhydrous dimethylformamide is added under ice cooling with stirring 3.6 g of sodium hydride (50% oily suspension), and the resulting mixture is stirred at room temperature for 15 minutes. To this mixture is added dropwise at room temperature with stirring 13.2 g of N,N-dimethyl-2-chloroethylamine over a period of about 1 hour, followed by stirring for 1 hour. The reaction mixture is poured into iced water and then extracted with chloroform. The extract is washed with water and dried over magnesium sulfate, and the solvent is then distilled off under reduced pressure. An oily product obtained as the residue is subjected to column chromatography on alumina and eluted from the column with a benzene-chloroform (5:1) eluant. The eluate is concentrated under reduced pressure to obtain an oily 2-(2-dimethylaminoethylthio)-5-phenyl-7-nitro-3H-1,4-benzodiazepine. The oily product thus obtained is treated, according to usual procedure, with maleic acid and then recrystallized from an anhydrous ethanol-acetone mixture to obtain 9.0 g of 2-(2-dimethylaminoethylthio)-5-phenyl-7-nitro-3H-1,4-benzodiazepine maleate, m.p. 131°-134° C.

reactant | 1,3-dihydro-5-phenyl-7-nitro-2H-1,4-benzodiazepin-2-thione | 11.4 g | C1(=CC=CC=C1)C1=NCC(NC2=C1C=C(C=C2)[N+](=O)[O-])=S | C15H11N3O2S
reactant | sodium hydride | 3.6 g | [H-].[Na+]
reactant | N,N-dimethyl-2-chloroethylamine | 13.2 g | CN(C)CCCl | C4H10ClN
reactant | water | O | H2O
solvent | dimethylformamide | 140 ml | CN(C=O)C | C3H7NO
product | 2-(2-dimethylaminoethylthio)-5-phenyl-7-nitro-3H-1,4-benzodiazepine | CN(CCSC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)[N+](=O)[O-])C | C19H20N4O2S
